US07696200B2
A suspension of 3-amino-4-hydroxy-5-trifluoromethyl-benzoic acid methyl ester (4.66 g, 19.8 mmol) and 5-chloro-2-methoxybenzenesulfonyl chloride (4.78 g, 19.8 mmol) in toluene (38 mL) was heated at reflux for 48 h. After cooling, the precipitate was collected by filtration and washed with toluene to afford 3-(5-chloro-2-methoxy-benzenesulfonylamino)-4-hydroxy-5-trifluoromethyl-benzoic acid methyl ester. Off-white solid, MS (ISP)=438.0 (M−H)−.

reactant | 3-amino-4-hydroxy-5-trifluoromethyl-benzoic acid methyl ester | 19.8 mmol, 4.66 g | COC(C1=CC(=C(C(=C1)C(F)(F)F)O)N)=O | C9H8F3NO3
reactant | 5-chloro-2-methoxybenzenesulfonyl chloride | 19.8 mmol, 4.78 g | ClC=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C7H6Cl2O3S
solvent | toluene | 38 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(5-chloro-2-methoxy-benzenesulfonylamino)-4-hydroxy-5-trifluoromethyl-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)C(F)(F)F)O)NS(=O)(=O)C1=C(C=CC(=C1)Cl)OC)=O | C16H13ClF3NO6S
